US08357705B2
(S)-tert-butyl-1-amino-3-(1H-indol-3-yl)-1-thioxopropan-2-yl carbamate
A solution of (S)-tert-butyl-1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-yl carbamate (500 mg, 1.6 mmol) in anhydrous 1,2-dimethoxyethane (10 mL) was mixed in portions with sodium hydrogencarbonate (520 mg, 6.2 mmol) and diphosphorus pentasulphide (730 mg, 3.2 mmol) and stirred overnight at room temperature. The reaction mixture was then concentrated to low volume in a vacuum, the residue taken up in ethyl acetate (30 mL) and washed with water and saturated sodium hydrogencarbonate solution (3×20 mL each). The organic phase was dried with sodium sulphate and concentrated to low volume in a vacuum. The raw product (600 mg) was taken up in diethyl ether/cyclohexane (10 mL each) and concentrated to low volume again. During this a white solid separated out.

reactant | (S)-tert-butyl-1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-yl carbamate | 1.6 mmol, 500 mg | C(N)(O[C@H](C(=O)N)C(C1=CNC2=CC=CC=C12)C(C)(C)C)=O | C16H21N3O3
reactant | sodium hydrogencarbonate | 6.2 mmol, 520 mg | C(O)([O-])=O.[Na+]
reactant | diphosphorus pentasulphide | 3.2 mmol, 730 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | (S)-tert-butyl-1-amino-3-(1H-indol-3-yl)-1-thioxopropan-2-yl carbamate | C(N)(O[C@H](C(=S)N)C(C1=CNC2=CC=CC=C12)C(C)(C)C)=O | C16H21N3O2S
